US07179801B2
A mixture of methyl N-[2-(1-methyl-5-triphenylmethylaminopyrazol-4-yl)ethyl]carbamate (15.3 g, 34.7 mmol) and concentrated hydrochloric acid (80 ml) was stirred under reflux for 13 hours. The reaction mixture was washed with ethyl acetate. The organic layer was separated, and the aqueous layer was concentrated in vacuo. The residue was triturated with diisopropyl ether and dried in vacuo to give 2-(5-amino-1-methylpyrazol-4-yl)ethylamine dihydrochloride (6.1 g) as a colorless solid.

reactant | methyl N-[2-(1-methyl-5-triphenylmethylaminopyrazol-4-yl)ethyl]carbamate | 34.7 mmol, 15.3 g | CN1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCNC(OC)=O | C27H28N4O2
reactant | hydrochloric acid | 80 ml | Cl | ClH
product | 2-(5-amino-1-methylpyrazol-4-yl)ethylamine dihydrochloride | 6.1 g | Cl.Cl.NC1=C(C=NN1C)CCN | InChI=1S/C6H12N4.2ClH/c1-10-6(8)5(2-3-7)4-9-10;;/h4H,2-3,7-8H2,1H3;2*1H
